US07423150B2
1-fluoro-4-nitro-2-(prop-1-en-2-yl) benzene (1 eq) was dissolved in dichloromethane and cooled to −10° C. using and ice/salt/water bath under nitrogen. MCPBA (1.5 eq) in dichloromethane was then added dropwise and resulting solution allowed to warm to room temperature and allowed to stir 48 h. Solution was quenched with 10% sodium sulfite, neutralized with saturated solution of sodium bicarbonate, extracted with dichloromethane. Organics were washed with brine, dried with sodium sulfate and concentrated. Crude product was purified with flash chromatography (85% Hex: 15% EtoAc) to afford 2-(2-fluoro-5-nitrophenyl)-2-methyloxirane.

reactant | 1-fluoro-4-nitro-2-(prop-1-en-2-yl) benzene | 1 eq | FC1=C(C=C(C=C1)[N+](=O)[O-])C(=C)C | C9H8FNO2
reactant | water | O | H2O
reactant | MCPBA | 1.5 eq | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(2-fluoro-5-nitrophenyl)-2-methyloxirane | FC1=C(C=C(C=C1)[N+](=O)[O-])C1(OC1)C | C9H8FNO3
